US08703768B2
Step 2: 3-(Cyclopropylcarbamoyl)-isoxazole-4-carboxylic acid ethyl ester
A mixture of N-cyclopropyl-2-chloro-2-hydroxyimino-acetamide (2 g, 12.3 mmol) and (E)-3-(dimethylamino)-acrylic acid ethyl ester (1.76 ml, 12.3 mmol) in THF (25 ml) was heated at 75° C. for 2 h. The reaction was then cooled to r.t., poured into 100 mL ethyl acetate and extracted with 1 M HCl. The aqueous layers were back-extracted with ethyl acetate. The organic phase was washed with water and brine, dried and evaporated. The product was obtained after purification by silica gel chromatography using a heptane/ethyl acetate gradient as light yellow solid (1.6 g, 58%).

reactant | N-cyclopropyl-2-chloro-2-hydroxyimino-acetamide | 12.3 mmol, 2 g | C1(CC1)NC(C(=NO)Cl)=O | C5H7ClN2O2
reactant | (E)-3-(dimethylamino)-acrylic acid ethyl ester | 12.3 mmol, 1.76 ml | C(C)OC(\C=C\N(C)C)=O | C7H13NO2
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 3-(Cyclopropylcarbamoyl)-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NOC1)C(NC1CC1)=O | C10H12N2O4
